US07947680B2
Step 1: 4-Trifluoromethyl-pyrimidine-2-carbonitrile
To a solution 2-chloro-4-(trifluoromethyl)pyrimidine (5.00 g, 27.4 mmol) in dimethyl sulfoxide (25 mL) was added sodium cyanide (1.68 g, 34.2 mmol). The reaction was stirred at room temperature for 30 minutes and poured into cold saturated aqueous NaHCO3 solution. The mixture was transferred to a 100 mL separatory funnel and extracted with ethyl ether (3×50 mL). The combined organic layers were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford the title compound, 4-trifluoromethyl-pyrimidine-2-carbonitrile, as a brown oil, which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ9.16 (d, J=5.1 Hz, 1H), 7.88 (d, J=5.1 Hz, 1H).

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 27.4 mmol, 5.00 g | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | sodium cyanide | 34.2 mmol, 1.68 g | [C-]#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | 4-trifluoromethyl-pyrimidine-2-carbonitrile | FC(C1=NC(=NC=C1)C#N)(F)F | C6H2F3N3
